US08809371B2
Pyrazole (0.60 g), cesium carbonate (3.6 g), N,N-dimethylglycine (0.76 g), and copper iodide (I) (0.76 g) were added to an N,N-dimethylacetamide (20 ml) solution containing 2-hydroxy-3-iodo-5-nitropyridine (2.00 g) in a nitrogen atmosphere, followed by stirring at 90° C. for 2.5 hours. The reaction solution was adjusted to room temperature, water and ethyl acetate were added, and an insoluble precipitate was removed. The pH was adjusted to pH 2 with the addition of 6M hydrochloric acid. Then, organic layer was washed with saturated saline and dried over anhydrous sodium sulfate, the solvent was distilled away under reduced pressure. Ethyl acetate was added to the obtained residue, a solid precipitate was collected by filtration, and a green solid of 2-hydroxy-5-nitro-3-(1H-pyrazol-1-yl)pyridine (0.35 g) was thus obtained. Thereafter, the filtrate was collected, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=3:1 to 0:1), and a light green solid of 2-hydroxy-5-nitro-3-(1H-pyrazol-1-yl)pyridine (1.02 g) was thus obtained.

reactant | Pyrazole | 0.60 g | N1N=CC=C1 | C3H4N2
reactant | cesium carbonate | 3.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylglycine | 0.76 g | CN(CC(=O)O)C | C4H9NO2
reactant | 2-hydroxy-3-iodo-5-nitropyridine | 2.00 g | OC1=NC=C(C=C1I)[N+](=O)[O-] | C5H3IN2O3
catalyst | copper iodide | 0.76 g | [Cu](I)I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | 2-hydroxy-5-nitro-3-(1H-pyrazol-1-yl)pyridine | 0.35 g | OC1=NC=C(C=C1N1N=CC=C1)[N+](=O)[O-] | C8H6N4O3
